US08492372B2
(−)-N-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}ETHANAMINE
(−)-N-benzyl-N-{[7-(methylsulfonyl)-4H-1,3-benzodioxin-2-yl]methyl}ethanamine (0.47 g, 1.30 mmol), palladium on carbon (10%, 30 mg) and EtOH (15 ml) was hydrogenated at 50 psi for 13 h. The reaction mixture was filtered through a pad of celite and the filtrate was evaporated to dryness (0.34 g). Purification by flash chromatography (EtOAc/MeOH 4:1) afforded the pure title compound (0.27 g, 77%, >95% e.e.). The amine was converted into the hydrochloric acid salt and crystallized from EtOH/MeOH/DEE. M.p 219° C. [α]DMeoH=−79°. 1H-NMR (400 MHz, CDCl3): δ 7.49 (1H, dd, J1 8.0 Hz, J 2 2.0 Hz), δ 7.45 (1H, d, J 2.0 Hz), δ 7.17 (1H, d, J 8.0 Hz), δ 5.19 (1H, t, 4.8 Hz), δ 5.0 (2H, dd, J1 49 Hz, J2 15 Hz), δ 3.03 (3H, s), δ 2.76 (2H, q, J 7.2 Hz), δ 1.46 (1H, s), δ 1.16 (3H, t, J 7.2 Hz).

reactant | (−)-N-benzyl-N-{[7-(methylsulfonyl)-4H-1,3-benzodioxin-2-yl]methyl}ethanamine | 1.30 mmol, 0.47 g | C(C1=CC=CC=C1)N(CC)CC1OCC2=C(O1)C=C(C=C2)S(=O)(=O)C | C19H23NO4S
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
solvent | EtOH | 15 ml | CCO | C2H6O
product | (−)-N-{[7-(METHYLSULFONYL)-4H-1,3-BENZODIOXIN-2-YL]METHYL}ETHANAMINE | 0.27 g, 77% | CS(=O)(=O)C=1C=CC2=C(OC(OC2)CNCC)C1 | C12H17NO4S
